US03948967
A solution of 1-(3,4-dichlorophenyl)-1-hydroxy-3-methylurea (6 grams; 0.025 mol) in diethyl ether (200 ml), and triethylamine (4 ml) were charged into a glass reaction flask equipped with a mechanical stirrer. Phenyl chloroformate (4.2 grams; 0.027 mol) was added thereto. The reaction mixture was stirred, at room temperature, for a period of about one-half hour resulting in the formation of a precipitate. The precipitate was recovered by filtration, was washed with water, dried, and was recrystallized from a methylene chloride-pentane mixture to yield 1-(3,4-dichlorophenyl)-1-phenoxycarbonyloxy-3-methylurea melting at 93°C with decomposition and having the following elemental analysis as calculated for C15H12Cl2N2O4 :

reactant | 1-(3,4-dichlorophenyl)-1-hydroxy-3-methylurea | 0.025 mol, 6 grams | ClC=1C=C(C=CC1Cl)N(C(=O)NC)O | C8H8Cl2N2O2
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | Phenyl chloroformate | 0.027 mol, 4.2 grams | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-(3,4-dichlorophenyl)-1-phenoxycarbonyloxy-3-methylurea | ClC=1C=C(C=CC1Cl)N(C(=O)NC)OC(=O)OC1=CC=CC=C1 | C15H12Cl2N2O4
